datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)c1ccccc1[NH2:10].CCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20]>>CC(C)c1ccccc1[NH2+:10][H:20].CCCCCC[N:21](CC(O)CC)CC(O)CC 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH:10]2)c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CC(C)(c1ccccc1)[NH2:10].NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:21][H:20]>>CC(C)(c1ccccc1)[NH2+:10][H:20].NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:21] 10=20;20,21=21",
"Cc1cc([O-])[nH+]c[n:10]1.Cc1cnc2c(c1)cc(C)c1cc(C)c[n+:21]([H:20])c12>>Cc1cc([O-])[nH+]c[n+:10]1[H:20].Cc1cnc2c(c1)cc(C)c1cc(C)c[n:21]c12 10=20;20,21=21",
"Cc1cc2ccc3cccnc3c2[n+:21]([H:20])c1.c1ccc(C(Nc2nc3ccccc3s2)c2ccc3cccnc3c2[O-:10])nc1>>Cc1cc2ccc3cccnc3c2[n:21]c1.c1ccc(C(Nc2nc3ccccc3s2)c2ccc3cccnc3c2[O:10][H:20])nc1 10=20;20,21=21",
"CC[n+]1c([O-])cc[n:10]c1[S-].c1ccc(NCC[S:21][H:20])cc1>>CC[n+]1c([O-])cc[n+:10]([H:20])c1[S-].c1ccc(NCC[S-:21])cc1 10=20;20,21=21",
"CCc1ccc(C2CCC[NH+]2C)c[n:10]1.O/C(c1ccoc1)=[O+:21]/[H:20]>>CCc1ccc(C2CCC[NH+]2C)c[n+:10]1[H:20].OC(c1ccoc1)=[O:21] 10=20;20,21=21",
"CCCSCC(=O)[O-:10].[NH3+]Cc1cc[n+:21]([H:20])cc1>>CCCSCC(=O)[O:10][H:20].[NH3+]Cc1cc[n:21]cc1 10=20;20,21=21",
"CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH:10][C@@H]2C(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH+:10]([H:20])[C@@H]2C(=O)[O-].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"NCCC[NH:10]CCO.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>NCCC[NH+:10](CCO)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"[O-]C(=C1c2ccccc2-c2ccccc21)[O:21][H:20].[O-]c1cc([O-:10])c2ccccc2[nH+]1>>[O-]C(=C1c2ccccc2-c2ccccc21)[O-:21].[O-]c1cc([O:10][H:20])c2ccccc2[nH+]1 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1.O=C([O-])C[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"C/C=C/C(=O)[O-:10].CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1>>C/C=C/C(=O)[O:10][H:20].CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1 10=20;20,21=21",
"CC[C@H](C)[C@@H](C(=O)[O-])[NH2+:21][H:20].c1ccc2c(c1)nc[n-:10]2>>CC[C@H](C)[C@@H](C(=O)[O-])[NH2:21].c1ccc2c(c1)nc[n:10]2[H:20] 10=20;20,21=21",
"CC[NH+](CC)CCNc1cc(C)[n+:21]([H:20])c(N)n1.Nc1ccc(-c2nnn[n-:10]2)cc1>>CC[NH+](CC)CCNc1cc(C)[n:21]c(N)n1.Nc1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2c[nH]c[n:10]2)cc1.O=C1CCC[C@H]2[C@H]3C[C@@H](CN12)[C@H]1CCCC[N+:21]1([H:20])C3>>CC(C)N/C=[NH+]/c1ccc(-c2c[nH]c[n+:10]2[H:20])cc1.O=C1CCC[C@H]2[C@H]3C[C@@H](CN12)[C@H]1CCCC[N:21]1C3 10=20;20,21=21",
"CCc1c(C)nn(-c2ccccc2)c1[O-:10].CN(C(=O)C(C)(C)C)[O:21][H:20]>>CCc1c(C)nn(-c2ccccc2)c1[O:10][H:20].CN(C(=O)C(C)(C)C)[O-:21] 10=20;20,21=21",
"C=CC(=O)NCCC[N:10](C)C.NC(c1ccccc1N)=[N+:21](O)[H:20]>>C=CC(=O)NCCC[N+:10](C)(C)[H:20].NC(c1ccccc1N)=[N:21]O 10=20;20,21=21",
"Cc1cccc(C(=O)[O:21][H:20])c1Cl.O=C([O-])CCC(=O)[N-:10]OCc1ccccc1>>Cc1cccc(C(=O)[O-:21])c1Cl.O=C([O-])CCC(=O)[N:10](OCc1ccccc1)[H:20] 10=20;20,21=21",
"C[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C[NH+](C)C(O)[O:21][H:20].N[NH:10]CCOc1ccccc1>>C[NH+](C)C(O)[O-:21].N[NH+:10](CCOc1ccccc1)[H:20] 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)CC.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C=CC(C)(C)[NH+:10](C(C)(C)CC)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=C[C@]1(O)C[C@@H](C)[NH:10][C@H]2CCCC[C@@H]21.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C=C[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@H]2CCCC[C@@H]21.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CO[C@H]1C[C@H]1C(=O)[O-:10].Cc1ccccc1C(=NCC[N+:21](C)(C)[H:20])c1ccccc1C>>CO[C@H]1C[C@H]1C(=O)[O:10][H:20].Cc1ccccc1C(=NCC[N:21](C)C)c1ccccc1C 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O:21][H:20])cn3)CC2)[nH+]c2ccccc21.O=C1C[C@@H](C(=O)[O-:10])[C@@H](C(=O)[O-])O1>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O-:21])cn3)CC2)[nH+]c2ccccc21.O=C1C[C@@H](C(=O)[O:10][H:20])[C@@H](C(=O)[O-])O1 10=20;20,21=21",
"CCOCCn1c(CN2CCC[N:10](CCCCn3cccn3)CC2)nc2ccccc21.c1ccc2c(c1)cc1ccccc1[n+]2[O:21][H:20]>>CCOCCn1c(CN2CCC[N+:10](CCCCn3cccn3)([H:20])CC2)nc2ccccc21.c1ccc2c(c1)cc1ccccc1[n+]2[O-:21] 10=20;20,21=21",
"CC[NH+](CC)Cc1cc([N+](=O)[O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+](CC)Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC[Si](C)(CCC)CC(=O)[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[Si](C)(CCC)CC(=O)[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCSCC[NH2:10].[S-]CC[NH+:21](CCc1ccccc1)[H:20]>>CCCCSCC[NH2+:10][H:20].[S-]CC[NH:21]CCc1ccccc1 10=20;20,21=21",
